US04093811
4,5-Dimethyl-2-phenylimidazoline-4,5-diol Hydrochloride
To 56.4 g (0.323 mole) of benzamidine hydrochloride hydrate in 200 ml of warm water is added with vigorous stirring 40 ml of biacetyl. Within a few minutes a heavy precipitate forms and 150 ml of isopropyl alcohol is added followed by 5.0 g of sodium acetate hydrate dissolved in 15 ml of warm water. Stirring is continued for 4 hours after which time the product, 4,5-dimethyl-2-phenylimidazoline-4,5-diol hydrochloride, is filtered off and washed with isopropyl alcohol. Recrystallization from 95% ethanol gives the pure product, m.p. 162°-165° C (dec.).

reactant | benzamidine hydrochloride hydrate | 0.323 mole, 56.4 g | O.Cl.C(C1=CC=CC=C1)(=N)N
reactant | biacetyl | 40 ml | C(=O)(C)C(=O)C | C4H6O2
reactant | isopropyl alcohol | 150 ml | C(C)(C)O | C3H8O
reactant | sodium acetate hydrate | 5.0 g | O.C(C)(=O)[O-].[Na+]
solvent | water | 200 ml | O | H2O
solvent | water | 15 ml | O | H2O
product | 4,5-Dimethyl-2-phenylimidazoline-4,5-diol Hydrochloride | Cl.CC1(N=C(NC1(O)C)C1=CC=CC=C1)O | InChI=1S/C11H14N2O2.ClH/c1-10(14)11(2,15)13-9(12-10)8-6-4-3-5-7-8;/h3-7,14-15H,1-2H3,(H,12,13);1H
